2163-03-20 08:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2163-3-19**] 08:30 AM
 SPUTUM CULTURE - At [**2163-3-19**] 08:30 AM
 URINE CULTURE - At [**2163-3-19**] 08:30 AM
 SPUTUM CULTURE - At [**2163-3-19**] 10:04 AM
 FEVER - 101.2
F - [**2163-3-19**] 07:00 AM
   - significant hct drop on adm & received a total of 6upRBCs, hct 30
   this am
   - BP stable but mildly tachycardic this am, receiving IVF bolus
   - satting well on [**5-9**]
   - urine legionella & influenza DFA neg
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2163-3-19**] 10:00 PM
   Meropenem - [**2163-3-20**] 02:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2163-3-20**] 05:00 AM
   Other medications:
   Flowsheet Data as of  [**2163-3-20**] 08:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 119 (90 - 119) bpm
   BP: 125/105(110) {99/42(57) - 140/105(110)} mmHg
   RR: 24 (14 - 32) insp/min
   SpO2: 95%
   Height: 68 Inch
    CVP: 7 (-1 - 18)mmHg
   Total In:
                                                                  5,089 mL
                                                                  1,120 mL
   PO:
   TF:
   IVF:
                                                                  2,876 mL
                                                                    722 mL
   Blood products:
                                                                  1,913 mL
                                                                    338 mL
   Total out:
                                                                  1,070 mL
                                                                    540 mL
   Urine:
                                                                  1,050 mL
                                                                    540 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                  4,019 mL
                                                                    580 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 540 (513 - 678) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 27
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.36/48/120/25/1
   Ve: 11.6 L/min
   PaO2 / FiO2: 240
   Physical Examination
   GEN: NAD, mildly agitated with movement
   HEENT: [**Year (4 digits) 1657**]
   CV: mildly tachy, RR no m apprec
   RESP: crackles noted at RLL, otherwise CTA, no w/r
   ABD: soft, BS present, intermittent flexion, but no guarding, ND
   EXTR: trace edema, no c/c
   Labs / Radiology
   375 K/uL
   10.4 g/dL
   82 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.3 mEq/L
   40 mg/dL
   108 mEq/L
   140 mEq/L
   30.4 %
   26.2 K/uL
        [image002.jpg]
                             [**2163-3-19**]  02:16 AM
                             [**2163-3-19**]  04:00 AM
                             [**2163-3-19**]  07:33 AM
                             [**2163-3-19**]  08:58 AM
                             [**2163-3-19**]  05:00 PM
                             [**2163-3-19**]  05:56 PM
                             [**2163-3-19**]  11:23 PM
                             [**2163-3-20**]  04:35 AM
   WBC
   26.5
   26.7
   28.4
   26.2
   Hct
   21.3
   24.0
   27.7
   30.4
   Plt
   426
   376
   420
   375
   Cr
   1.3
   1.2
   TropT
   0.04
   0.05
   0.04
   TCO2
   26
   30
   28
   Glucose
   93
   82
   Other labs: PT / PTT / INR:14.6/33.7/1.3, CK / CKMB /
   Troponin-T:45/4/0.04, ALT / AST:21/23, Alk Phos / T Bili:60/0.9,
   Differential-Neuts:92.0 %, Band:5.0 %, Lymph:2.0 %, Mono:0.0 %, Eos:1.0
   %, Lactic Acid:1.1 mmol/L, Albumin:2.1 g/dL, LDH:202 IU/L, Ca++:7.4
   mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Microbiology: Legionella Ag Neg
   Influenza DFA neg
   Urine, Blood, Sputum Cx pending
   Assessment and Plan
   89 y/o male recent discharged after MICU stay for influenza
   pneumonitis, representing with respiratory failure, fever, altered
   mental status & hct drop, concern for onogoing superimposed bacterial
   pneumonia
   .
   # Respiratory failure: etiology complex, including likely failed
   treatment of PNA with vanc/zosyn, inability to clear secretions & pulm
   edema. Consider HAP given recent adm, also viral etiologies such as RSV
   & atypical CAP given diffuse reticular opacities seen on CXR. Given
   recent course of influenza, ongoing secondary PNA likely. Given
   clinical course, PE low on the differential.
   -Continue levo, meropenem, linezolid given recent MICU course & NH
   resident. Appears volume overloaded & tachycardia did not respond to iv
   boluses, despite FENA 0.2
   -d/c tamiflu now that Influenza DFA neg
   -Viral cx including RSV pending
   -f/u blood/sputum/urine cx
   -f/u I/os in pm, consider diuresis with lasix, goal i/os neg to even
   -hold off on weaning/extubation given plan for EGD/[**Last Name (un) **] in am
   -tachypnea on [**Last Name (LF) **], [**First Name3 (LF) 178**] increase sedation, decrease TV.   (freq
   suction)
   # Fever: etiology most likely PNA but C-diff possible given recent ABx
   & WBC ct>20. PE less likely given clinical course.  Ruling out resp
   viral causes, GI bleed unlikely to cause fevers.
   -continue Linezolid, Levo, [**Last Name (un) **]
   -f/u blood, urine, sputum cx
   -influenza DFA & legionella neg
   -RSV, viral cx pending
   -send C. diff when possible
   .
    #Anemia: hct drop on adm from 31 to 22, etiology unclear but presumed
   GI bleed. Hemolysis labs WNL.  Pt is s/p 6upRBCs, hct did not approp
   rise until after 3^rd unit.  Hct 30 now, no e/o hemodynamic
   instability.  Pt has not had any stool since adm, but reported coffee
   grounds in NG lavage performed in ED, bile currently present when OG
   suctioned. Plan for EGD/[**Last Name (un) 236**] in am
   -guaiac all stool
   -q6hr hcts.
   -[**Hospital1 **] IV PPI
   -f/u GI recs
   .
   #Altered mental status: Hx of dementia. Likely Delirium in the setting
   of pneumonia, fever, hypoxia.  No clear signs of meningismus on exam,
   but difficult to assess MS [**First Name (Titles) 1646**] [**Last Name (Titles) 1657**].  t/b with family regarding
   baseline MS.
   [**Name14 (STitle) 1658**] broad spectrum ABx, f/u cx data
   -Hydration for renal failure
   -afebrile, no indication for LP at this time
   ..
   # ARF: 1.8 From baseline 0.7. Had been tre Consider pre renal in
   etiology, creatinine trended down to 1.2 this am, still elev BUN/creat
   ratio this am.  Urine Na 19, FENA 0.2 but fluid bolus did not resolve
   tachycardia & volume overloaded on CXR
   -recheck pm lytes
   -foley catheter, strict I/0's
   -goal i/os neg to even for the day
   .
   # Cardiac: troponinin of 0.05 on adm in setting of fever etc, EKGs
   unchanged, CE have been flat
   -repeat EKGs prn
   -holding ASA in the setting of likely GI bleed.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines: Presep Catheter - [**2163-3-18**] 11:37 PM
   18 Gauge - [**2163-3-18**] 11:38 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  PPI [**Hospital1 **]
   VAP:
   Code status: Full code
   Disposition: ICU

2163-03-20 10:21:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   Key issues:
   89 yr old male recent hospital admission for influenza pneumonitis,
   concern for superimposed bacterial pneumonia presenting with
   respiratory failure, fever, altered mental status, anemia and ARF.
   Intubated in ED on arrival. Empiric Linezolid due to recent prolonged
   Vanc course. Acute Hct drop requiring total 6U pRBC, no obvious bleed.
   Plan for endoscopy tomorrow.
   24 Hour Events:
   6 units pRBCs total - Hct now up to 30
   Fever to 101.2
   Legionella Ag and influenza DFA neg
   Ongoing copious secretions
 BLOOD CULTURED - At [**2163-3-19**] 08:30 AM
 SPUTUM CULTURE - At [**2163-3-19**] 08:30 AM
 URINE CULTURE - At [**2163-3-19**] 08:30 AM
 SPUTUM CULTURE - At [**2163-3-19**] 10:04 AM
 FEVER - 101.2
F - [**2163-3-19**] 07:00 AM
   History obtained from Medical records, ICU team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2163-3-19**] 10:00 PM
   Meropenem - [**2163-3-20**] 02:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2163-3-20**] 05:00 AM
   Other medications:
   Tamiflu, Protonix, levopflox, atrovent,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-3-20**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 110 (90 - 119) bpm
   BP: 130/69(81) {99/42(57) - 140/105(110)} mmHg
   RR: 30 (14 - 39) insp/min
   SpO2: 97%
   Height: 68 Inch
   CVP: 7 (-1 - 18)mmHg
   Total In:
                                                                  5,089 mL
                                                                  1,863 mL
   PO:
   TF:
   IVF:
                                                                  2,876 mL
                                                                  1,466 mL
   Blood products:
                                                                  1,913 mL
                                                                    338 mL
   Total out:
                                                                  1,070 mL
                                                                    540 mL
   Urine:
                                                                  1,050 mL
                                                                    540 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                  4,019 mL
                                                                  1,323 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 532 (513 - 678) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 27
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.36/48/120/25/1
   Ve: 11.8 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: No acute distress, Intubated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   R base)
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   375 K/uL
   82 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.3 mEq/L
   40 mg/dL
   108 mEq/L
   140 mEq/L
   30.4 %
   26.2 K/uL
        [image002.jpg]
                             [**2163-3-19**]  02:16 AM
                             [**2163-3-19**]  04:00 AM
                             [**2163-3-19**]  07:33 AM
                             [**2163-3-19**]  08:58 AM
                             [**2163-3-19**]  05:00 PM
                             [**2163-3-19**]  05:56 PM
                             [**2163-3-19**]  11:23 PM
                             [**2163-3-20**]  04:35 AM
   WBC
   26.5
   26.7
   28.4
   26.2
   Hct
   21.3
   24.0
   27.7
   30.4
   Plt
   426
   376
   420
   375
   Cr
   1.3
   1.2
   TropT
   0.04
   0.05
   0.04
   TCO2
   26
   30
   28
   Glucose
   93
   82
   Other labs: PT / PTT / INR:14.6/33.7/1.3, CK / CKMB /
   Troponin-T:45/4/0.04, ALT / AST:21/23, Alk Phos / T Bili:60/0.9,
   Differential-Neuts:92.0 %, Band:5.0 %, Lymph:2.0 %, Mono:0.0 %, Eos:1.0
   %, Lactic Acid:1.1 mmol/L, Albumin:2.1 g/dL, LDH:202 IU/L, Ca++:7.4
   mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR:  Increased edema, emerging RLL infiltrate
   Assessment and Plan
   A/P:89 yr old male recent hospital admission for influenza pneumonitis,
   concern for superimposed bacterial pneumonia presenting with
   respiratory failure, fever, altered mental status, anemia and ARF.
   Respiratory Failure: Suspect an ongoing nosocomial PNA - RLL appears to
   be developing an infiltrate.  Pt also appears by CXR to be volume up in
   setting of pRBC and IVF.  Secretions also a major issue.  Will aim to
   diuresis today and monitor secretions - hopefully will be extubatable
   tomorrow.
   Fever: Will stay with linezolid, meropenem, levoflox as current abx
   choice.  D/C Tamiflu
   Leukocytosis: Check C. diff, F/U cultures.
   Anemia: Now s/p 6 units pRBCs. No definite source of bleeding.  No
   evidence of hemolysis.  Endoscopy pending for tomorrow.
   ARF: Cr down to baseline.
   Abnl EKG: Troponins trending down.
   FEN: NPO
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2163-3-18**] 11:37 PM
   18 Gauge - [**2163-3-18**] 11:38 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2163-03-21 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- Hct has trendined down from 30 to 23, transfused 2U PRBC
   -- DFA negative, additional viral culture added on to specimen
   -- GI plans to do EGD/[**Last Name (un) **] today, written for golytly.  Stools still
   not running clear, gave additional golytly.
   -- Patient +2L after fluid resusitation, fluid overloaded on CXR, given
   40mgIV lasix in late afternoon
   -- Remained [**Last Name (un) 1657**] for EGD
   -- Patient acutly hypertensive and O2 sats down to 90s after being
   moved.  Concern of flash pulmonary edema after receiving 2U PRBC, given
   40mg IV lasix w/ improvment in O2 sats.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2163-3-20**] 08:17 PM
   Linezolid - [**2163-3-20**] 10:00 PM
   Meropenem - [**2163-3-21**] 02:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2163-3-20**] 05:00 PM
   Midazolam (Versed) - [**2163-3-20**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-3-21**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37
C (98.6
   HR: 129 (105 - 129) bpm
   BP: 122/74(85) {104/57(69) - 169/91(100)} mmHg
   RR: 24 (14 - 39) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 7 (-6 - 14)mmHg
   Total In:
                                                                  3,253 mL
                                                                    904 mL
   PO:
   TF:
   IVF:
                                                                  2,855 mL
                                                                    154 mL
   Blood products:
                                                                    338 mL
                                                                    750 mL
   Total out:
                                                                  2,195 mL
                                                                    470 mL
   Urine:
                                                                  2,195 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,058 mL
                                                                    434 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 488 (488 - 643) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 83
   PIP: 11 cmH2O
   SpO2: 93%
   ABG: ///31/
   Ve: 10.6 L/min
   Physical Examination
   General Appearance: Well nourished, Anxious, No(t) Diaphoretic
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube, JVP not observed
   [**2-5**] to neck fullness
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic,
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, not as combative
   Labs / Radiology
   332 K/uL
   9.9 g/dL
   95 mg/dL
   1.2 mg/dL
   31 mEq/L
   3.1 mEq/L
   34 mg/dL
   109 mEq/L
   148 mEq/L
   28.4 %
   21.4 K/uL
        [image002.jpg]
                             [**2163-3-19**]  07:33 AM
                             [**2163-3-19**]  08:58 AM
                             [**2163-3-19**]  05:00 PM
                             [**2163-3-19**]  05:56 PM
                             [**2163-3-19**]  11:23 PM
                             [**2163-3-20**]  04:35 AM
                             [**2163-3-20**]  10:41 AM
                             [**2163-3-20**]  04:21 PM
                             [**2163-3-20**]  10:00 PM
                             [**2163-3-21**]  05:02 AM
   WBC
   26.5
   26.7
   28.4
   26.2
   21.4
   Hct
   21.3
   24.0
   27.7
   30.4
   28.0
   26.5
   23.3
   28.4
   Plt
   426
   376
   420
   375
   332
   Cr
   1.2
   1.1
   1.2
   TropT
   0.05
   0.04
   TCO2
   30
   28
   Glucose
   82
   83
   95
   Other labs: PT / PTT / INR:14.6/33.7/1.3, CK / CKMB /
   Troponin-T:45/4/0.04, ALT / AST:21/23, Alk Phos / T Bili:60/0.9,
   Differential-Neuts:92.0 %, Band:5.0 %, Lymph:2.0 %, Mono:0.0 %, Eos:1.0
   %, Lactic Acid:1.1 mmol/L, Albumin:2.1 g/dL, LDH:202 IU/L, Ca++:7.7
   mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Imaging: The study is degraded by respiratory motion.  Endotracheal
   tube terminates in
   thoracic inlet.  Nasogastric tube terminates in stomach.  Right IJ
   catheter
   terminates in the superior vena cava.  There is no appreciable change
   since
   the prior study.  There are diffuse multifocal airspace opacities
   superimposed
   on the background of diffuse interstitial lung disease.  There is mild
   blunting of the costophrenic angles.  Heart is mildly enlarged.
   Mediastinum
   is within normal limits.
   Microbiology: CLOSTRIDIUM DIFFICILE TOXIN ASSAY-PENDING
   VIRAL CULTURE-PENDING; DIRECT INFLUENZA A ANTIGEN TEST-FINAL; DIRECT
   INFLUENZA B ANTIGEN TEST-FINAL (Additional Viral Cultures added on)
   Blood Culture, Routine-PENDING
   Sputum Culture w/ 1+    (<1 per 1000X FIELD):   BUDDING YEAST WITH
   PSEUDOHYPHAE.
   Assessment and Plan
   89 y/o male recent discharged after MICU stay for influenza
   pneumonitis, representing with respiratory failure, fever, altered
   mental status & hct drop, concern for onogoing superimposed bacterial
   pneumonia
   # Respiratory failure: etiology complex, including likely failed
   treatment of PNA with vanc/zosyn, inability to clear secretions causing
   resperation pneumonitis vs. acute flare up of what appears to be
   underlying interstital lung disease.   Consider HAP given recent adm,
   also viral etiologies such as RSV & atypical CAP given diffuse
   reticular opacities seen on CXR. Given recent course of influenza,
   ongoing secondary PNA likely. PE also on the differnetial given
   persistent tachycardia despite adequate hydration.
   -  All cultures negative and patient afebrile.  Elevated WBC may be
   secondary to aspiration pneumonitis.  Will d/c levo, meropenem,
   linezolid (considered failure on vanc.)
   -d/c'd tamiflu now that Influenza DFA neg
   -Viral cx including RSV pending
   -f/u blood/sputum/urine cx
   -In review of CXR and prior CT, less consistent w/ volume overload than
   underlying insterstial lung disease.  Course not c/w IPF, and thus
   steroids not indicated.  No evidence of pulmonary HTN on prior TTE.
   Will w/u by checking [**Doctor First Name 1205**], RF, anti-SCL70, ESR, ANC, and PFTs once
   extubated.
   -held on weaning/extubation given plan for EGD.  Once complete, will
   check ABG, and if looks adequate on PS 5/5, will extubate.
   # Fever: etiology most likely PNA but C-diff possible given recent ABx
   & WBC ct>20. PE less likely given clinical course.  Ruling out resp
   viral causes, GI bleed unlikely to cause fevers.  WBC down and patient
   has been afebrile
   -d/c llnezolid, Levo, [**Last Name (un) **] as cultures negative and afebrile > 48hrs
   -f/u blood, urine, sputum cx
   -influenza DFA  and legionella pending
   -RSV, viral cx pending
   -send C. diff when possible
    #Anemia: hct drop on adm from 31 to 22, etiology unclear but presumed
   GI bleed. Hemolysis labs WNL.  Pt is s/p 8upRBCs, hct did not approp
   rise until after 3rd unit.  Hct finally went to 30, no e/o hemodynamic
   instability.  Guaic negative from golytyl BM,  reported coffee grounds
   in NG lavage performed in ED, bile currently present when OG suctioned.
   Planed for EGD in am.  Colonosocpy once extubated.  Curently being
   prepped.  Hct trended back down to 23, transfused 2 additional units,
   w/ appropriate bump.  Planned EGD today.
   -stools guaic negative
   -q6hr hcts.
   -[**Hospital1 **] IV PPI
   -f/u GI recs
   #Altered mental status: Hx of dementia. Likely Delirium in the setting
   of pneumonia, fever, hypoxia.  No clear signs of meningismus on exam,
   but difficult to assess MS [**First Name (Titles) 1646**] [**Last Name (Titles) 1657**].  t/b with family regarding
   baseline MS.
   [**Name14 (STitle) 1658**] broad spectrum ABx, f/u cx data
   -afebrile, no indication for LP at this time
   ..# ARF: 1.8 From baseline 0.7. Had been tre Consider pre renal in
   etiology, creatinine trended down to 1.2 this am, still elev BUN/creat
   ratio this am.  Urine Na 19, FENA 0.2 but fluid bolus did not resolve
   tachycardia & volume overloaded on CXR
   -recheck pm lytes
   -foley catheter, strict I/0's
   -goal i/os neg to even for the day
   # Cardiac: troponinin of 0.05 on adm in setting of fever etc, EKGs
   unchanged, CE have been flat
   -repeat EKGs prn
   -holding ASA in the setting of likely GI bleed.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   Presep Catheter - [**2163-3-18**] 11:37 PM
   18 Gauge - [**2163-3-18**] 11:38 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2163-03-21 09:37:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with Dr
   [**Last Name (STitle) 1256**]
s note above, including assessment and plan.
   HPI:
   History reviewed.
   24 Hour Events:
   Transfused additional 2 units prbc vernight
   Diuresed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2163-3-20**] 08:17 PM
   Linezolid - [**2163-3-20**] 10:00 PM
   Meropenem - [**2163-3-21**] 02:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2163-3-20**] 05:00 PM
   Midazolam (Versed) - [**2163-3-20**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-3-21**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 110 (105 - 129) bpm
   BP: 107/64(75) {104/57(69) - 169/91(100)} mmHg
   RR: 16 (14 - 37) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
   CVP: 10 (-6 - 14)mmHg
   Total In:
                                                                  7,253 mL
                                                                  1,052 mL
   PO:
   TF:
   IVF:
                                                                  2,855 mL
                                                                    302 mL
   Blood products:
                                                                    338 mL
                                                                    750 mL
   Total out:
                                                                  2,195 mL
                                                                  3,250 mL
   Urine:
                                                                  2,195 mL
                                                                  1,250 mL
   NG:
   Stool:
                                                                  2,000 mL
   Drains:
   Balance:
                                                                  5,058 mL
                                                                 -2,198 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 473 (473 - 643) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 83
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///31/
   Ve: 8.1 L/min
   Physical Examination
   General Appearance: Well nourished, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   332 K/uL
   95 mg/dL
   1.2 mg/dL
   31 mEq/L
   3.1 mEq/L
   34 mg/dL
   109 mEq/L
   148 mEq/L
   28.4 %
   21.4 K/uL
        [image002.jpg]
                             [**2163-3-19**]  07:33 AM
                             [**2163-3-19**]  08:58 AM
                             [**2163-3-19**]  05:00 PM
                             [**2163-3-19**]  05:56 PM
                             [**2163-3-19**]  11:23 PM
                             [**2163-3-20**]  04:35 AM
                             [**2163-3-20**]  10:41 AM
                             [**2163-3-20**]  04:21 PM
                             [**2163-3-20**]  10:00 PM
                             [**2163-3-21**]  05:02 AM
   WBC
   26.5
   26.7
   28.4
   26.2
   21.4
   Hct
   21.3
   24.0
   27.7
   30.4
   28.0
   26.5
   23.3
   28.4
   Plt
   426
   376
   420
   375
   332
   Cr
   1.2
   1.1
   1.2
   TropT
   0.05
   0.04
   TCO2
   30
   28
   Glucose
   82
   83
   95
   Other labs: PT / PTT / INR:14.6/33.7/1.3, CK / CKMB /
   Troponin-T:45/4/0.04, ALT / AST:21/23, Alk Phos / T Bili:60/0.9,
   Differential-Neuts:92.0 %, Band:5.0 %, Lymph:2.0 %, Mono:0.0 %, Eos:1.0
   %, Lactic Acid:1.1 mmol/L, Albumin:2.1 g/dL, LDH:202 IU/L, Ca++:7.7
   mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: Labs reviewed. K replaced
   Imaging: CXR and [**3-9**] CTA reviewed personally and with team
   Microbiology: Viral cultures - negative to date
   Assessment and Plan
   A/P:89 yr old male recent hospital admission for influenza pneumonitis,
   concern for superimposed bacterial pneumonia presenting with
   respiratory failure, fever, altered mental status, anemia and ARF.
   1.       Acute respiratory failure: suspect aspiration vs. nosocomial
   PNA given fever, leukocytosis, recent admission.  L>R lower lobe
   infiltrates, but CT chest shows upper lobe predominant fibrotic process
   c/w possible ILD. Volume overload may be playing a role in setting of
   pRBC and IVF.  Secretions may be an obstacle in extubation.  Agree with
   initiating  ILD w/u, [**Doctor First Name 1205**], RF, consider echo. Should be seen by
   pulmonary as outpatient.
   2.       Fever: afebrile this AM, will continue with linezolid,
   meropenem, levoflox as current abx choice.  D/C Tamiflu. Cdiff pending.
   3.       Leukocytosis: improving gradually, check C. diff, f/u
   cultures.
   4.       Anemia: Now s/p 6 units pRBCs. No definite source of
   bleeding.  No evidence of hemolysis.  GI to scope today.
   5.       ARF: Cr down to baseline.
   6.       Abnl EKG: Troponins trending down.
   7.       FEN: NPO
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2163-3-18**] 11:37 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 of critcal care time minutes
   Patient is critically ill

2163-03-22 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2163-3-21**] 01:02 PM - no report on file
 ENDOSCOPY - At [**2163-3-21**] 04:16 PM
   - transfused 2 units pRBCs, HCT up to 28 then trended down so
   transfused another unit
   - EGD by GI, clean, no active bleeding, guaiac negative
   - swollen right knee noted by nursing, entire right leg swollen, plain
   films negative, tap by rheumatology no blood, no crystals, uric acid
   WNL, US + for hematoma, vascular consulted, recommended CTA, given
   acetylcysteine and bicarb priro to study, CT thigh ++ for large
   hematoma, per vascular, wrapped thigh in ace bandage overnight
   - TTE ordered
   - interstitial lung disease work-up initiated
   - antibx d/c
   - Head CT
 evidence of acute bilat mastoiditis
   - LE CT
 large intramuscular hematoma in ant compartment of right
   thigh, no arterial blush identified to suggest active extravation of
   contrast
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2163-3-20**] 08:17 PM
   Linezolid - [**2163-3-20**] 10:00 PM
   Meropenem - [**2163-3-21**] 02:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2163-3-21**] 02:30 PM
   Fentanyl - [**2163-3-21**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-3-22**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 102 (93 - 110) bpm
   BP: 129/66(82) {85/51(66) - 153/99(113)} mmHg
   RR: 18 (3 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 7 (5 - 10)mmHg
   Total In:
                                                                  2,434 mL
                                                                    705 mL
   PO:
   TF:
   IVF:
                                                                  1,534 mL
                                                                    330 mL
   Blood products:
                                                                    750 mL
                                                                    375 mL
   Total out:
                                                                  5,460 mL
                                                                    325 mL
   Urine:
                                                                  2,260 mL
                                                                    325 mL
   NG:
   Stool:
                                                                  3,200 mL
   Drains:
   Balance:
                                                                 -3,026 mL
                                                                    380 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 543 (419 - 627) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 39
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.42/56/111/33/10
   Ve: 9 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, difficult to appreciate [**2-5**] coarse breath sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: Absent, No(t) Cyanosis, significant
   swelling thigh, erythematous
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   362 K/uL
   10.5 g/dL
   100 mg/dL
   1.1 mg/dL
   33 mEq/L
   3.2 mEq/L
   30 mg/dL
   108 mEq/L
   149 mEq/L
   30.9 %
   21.8 K/uL
        [image002.jpg]
                             [**2163-3-20**]  04:35 AM
                             [**2163-3-20**]  10:41 AM
                             [**2163-3-20**]  04:21 PM
                             [**2163-3-20**]  10:00 PM
                             [**2163-3-21**]  05:02 AM
                             [**2163-3-21**]  09:40 AM
                             [**2163-3-21**]  11:22 AM
                             [**2163-3-21**]  03:32 PM
                             [**2163-3-21**]  11:33 PM
                             [**2163-3-22**]  05:07 AM
   WBC
   26.2
   21.4
   21.8
   Hct
   30.4
   28.0
   26.5
   23.3
   28.4
   28.7
   26.3
   25.9
   30.9
   Plt
   375
   332
   362
   Cr
   1.2
   1.1
   1.2
   1.2
   1.1
   TropT
   0.04
   TCO2
   38
   Glucose
   82
   83
   95
   88
   100
   Other labs: PT / PTT / INR:14.4/28.5/1.3, CK / CKMB /
   Troponin-T:45/4/0.04, ALT / AST:21/23, Alk Phos / T Bili:60/0.9,
   Differential-Neuts:92.0 %, Band:5.0 %, Lymph:2.0 %, Mono:0.0 %, Eos:1.0
   %, Lactic Acid:1.1 mmol/L, Albumin:2.1 g/dL, LDH:221 IU/L, Ca++:7.4
   mg/dL, Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   89 y/o male recent discharged after MICU stay for influenza
   pneumonitis, representing with respiratory failure, fever, altered
   mental status & hct drop, concern for onogoing superimposed bacterial
   pneumonia
   #Anemia: hct drop on adm from 31 to 22, etiology initially unclear  but
   presumed GI bleed. Hemolysis labs WNL.  Pt is s/p 9upRBCs, hct did not
   approp rise until after 3rd unit.  Hct finally went to 30, no e/o
   hemodynamic instability.  Guaiac negative from golytyl BM,  reported
   coffee grounds in NG lavage performed in ED, bile currently present
   when OG suctioned, EGD on [**3-21**] showed clean upper GI tract without
   evidence of bleeding. Colonosocpy not perfromed with guaiac negative
   schools and [**Month/Year (2) 1657**].  Nursing noted swelling of right knee and right
   lower extremity.  Plain films of right knee negative.  Seen by rheum no
   blood on tap, no crystals.  LENI of right lower extremity revealed
   hematoma.  Vascular consulted recommended CTA of RLE.  Patient
   premedicated with acetylcysteine and and bicarb.  Scan showed large
   hematomoa with no evidence of active extravation of contrast
   -stools guaiac negative
   -q6hr hcts.
   -[**Hospital1 **] IV PPI
   -f/u vascular rec
   # Respiratory failure: etiology complex, including likely failed
   treatment of PNA with vanc/zosyn, inability to clear secretions causing
   resperation pneumonitis vs. acute flare up of what appears to be
   underlying interstital lung disease.   Consider HAP given recent adm,
   also viral etiologies such as RSV & atypical CAP given diffuse
   reticular opacities seen on CXR. Given recent course of influenza,
   ongoing secondary PNA likely. PE also on the differnetial given
   persistent tachycardia despite adequate hydration.  CXR and prior CT
   seem consistent with IPF.  IPF work-up pending.  CXR this am does,
   however, look a little worse.
   -  All cultures negative and patient afebrile.  Elevated WBC may be
   secondary to aspiration pneumonitis.  d/c
d levo, meropenem, linezolid
   (considered failure on vanc.)
   -d/c'd tamiflu now that Influenza DFA neg
   -Viral cx including RSV pending
   -f/u blood/sputum/urine cx
   -In review of CXR and prior CT, less consistent w/ volume overload than
   underlying interstitial lung disease.  Course not c/w IPF, and thus
   steroids not indicated.  No evidence of pulmonary HTN on prior TTE.
   Will w/u by checking [**Doctor First Name 1205**], RF, anti-SCL70, ESR, ANC, and PFTs once
   extubated.
   -held on extubation yesterday per vasculr while work-up of hematoma
   underway
   - will check an ABG, SBT and plan to extubate this am
   # Fever: etiology most likely PNA but C-diff possible given recent ABx
   & WBC ct>20. PE less likely given clinical course.  Ruling out resp
   viral causes, GI bleed unlikely to cause fevers.  WBC down and patient
   has been afebrile.  CT Head showed acute bilat mastoiditis.
   - ceftriaxone 1mg qd for acute mastoiditis
   -d/c llnezolid, Levo, [**Last Name (un) **] as cultures negative and afebrile > 48hrs
   -f/u blood, urine, sputum cx
   -influenza DFA  and legionella negative
   -RSV, viral cx pending
   -send C. diff when possible, negative x1
   #Altered mental status: Hx of dementia. Likely Delirium in the setting
   of pneumonia, fever, hypoxia.  No clear signs of meningismus on exam,
   but difficult to assess MS [**First Name (Titles) 1646**] [**Last Name (Titles) 1657**].  t/b with family regarding
   baseline MS.
   [**Name14 (STitle) 1658**] broad spectrum ABx, f/u cx data
   -afebrile, no indication for LP at this time
   ..# ARF: Baseline 0.7. Consider pre renal in etiology, creatinine
   trended down to 1.2 this am, still elev BUN/creat ratio this am.  Urine
   Na 19, FENA 0.2 but fluid bolus did not resolve tachycardia & volume
   overloaded on CXR.  Patient premedicated with acetylcysteine and bicard
   for CTA with no bump in Cr this am.
   -foley catheter, strict I/0's
   # Cardiac: troponinin of 0.05 on adm in setting of fever etc, EKGs
   unchanged, CE have been flat
   -repeat EKGs prn
   -holding ASA in the setting of likely GI bleed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2163-3-18**] 11:37 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2163-03-22 08:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   EGD - no evidence of bleeding
   Right thigh enlargement noted.
   CTA revealed large hematoma.
   Vascular surgery consulted.
   Received 2 additional units of PRBC overnight, 9 units total.
   CT head - bilat mastoiditis
   Abx d/c'd.
                   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2163-3-20**] 08:17 PM
   Linezolid - [**2163-3-20**] 10:00 PM
   Meropenem - [**2163-3-21**] 02:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2163-3-21**] 08:00 PM
   Midazolam (Versed) - [**2163-3-22**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-3-22**] 08:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98
   HR: 111 (93 - 111) bpm
   BP: 150/72(103) {85/51(66) - 153/99(113)} mmHg
   RR: 25 (3 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
   CVP: 8 (5 - 10)mmHg
   Total In:
                                                                  2,434 mL
                                                                    730 mL
   PO:
   TF:
   IVF:
                                                                  1,534 mL
                                                                    355 mL
   Blood products:
                                                                    750 mL
                                                                    375 mL
   Total out:
                                                                  5,460 mL
                                                                    415 mL
   Urine:
                                                                  2,260 mL
                                                                    415 mL
   NG:
   Stool:
                                                                  3,200 mL
   Drains:
   Balance:
                                                                 -3,026 mL
                                                                    315 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 450 (419 - 627) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 39
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.42/56/111/33/10
   Ve: 7.7 L/min
   PaO2 / FiO2: 277
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: coarse sounds R>L
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Right thigh dressed
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.5 g/dL
   362 K/uL
   100 mg/dL
   1.1 mg/dL
   33 mEq/L
   3.2 mEq/L
   30 mg/dL
   108 mEq/L
   149 mEq/L
   30.9 %
   21.8 K/uL
        [image002.jpg]
                             [**2163-3-20**]  04:35 AM
                             [**2163-3-20**]  10:41 AM
                             [**2163-3-20**]  04:21 PM
                             [**2163-3-20**]  10:00 PM
                             [**2163-3-21**]  05:02 AM
                             [**2163-3-21**]  09:40 AM
                             [**2163-3-21**]  11:22 AM
                             [**2163-3-21**]  03:32 PM
                             [**2163-3-21**]  11:33 PM
                             [**2163-3-22**]  05:07 AM
   WBC
   26.2
   21.4
   21.8
   Hct
   30.4
   28.0
   26.5
   23.3
   28.4
   28.7
   26.3
   25.9
   30.9
   Plt
   375
   332
   362
   Cr
   1.2
   1.1
   1.2
   1.2
   1.1
   TropT
   0.04
   TCO2
   38
   Glucose
   82
   83
   95
   88
   100
   Other labs: PT / PTT / INR:14.4/28.5/1.3, CK / CKMB /
   Troponin-T:45/4/0.04, ALT / AST:21/23, Alk Phos / T Bili:60/0.9,
   Differential-Neuts:92.0 %, Band:5.0 %, Lymph:2.0 %, Mono:0.0 %, Eos:1.0
   %, Lactic Acid:1.1 mmol/L, Albumin:2.1 g/dL, LDH:221 IU/L, Ca++:7.4
   mg/dL, Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   A/P:89 yr old male recent hospital admission for influenza pneumonitis,
   concern for superimposed bacterial pneumonia presenting with
   respiratory failure, fever, altered mental status, anemia and ARF.
   Now with hemorrhage into right thigh without clear cause.
    1.     Acute respiratory failure: suspect aspiration vs. nosocomial
   PNA given fever, leukocytosis, recent admission.  L>R lower lobe
   infiltrates, but CT chest shows upper lobe predominant fibrotic process
   c/w possible ILD. Volume overload may be playing a role in setting of
   pRBC and IVF.  Secretions may be an obstacle in extubation.  Agree with
   initiating  ILD w/u, [**Doctor First Name 1205**], RF, consider echo. Should be seen by
   pulmonary as outpatient. Will likely extubate this AM.
   2.      Fever: remains afebrile this AM, off all Abx. Cdiff negative x
   1. New mastoiditis on CT head. Will treat with CFTX.
   3.       Leukocytosis:  improved slightly, may be due to acute blood
   loss and/or mastoiditis.F/u cultures.
   4.      Acute blood loss Anemia due to bleed into right thigh: Now s/p
   9 units PRBCs. Source of bleeding is right hip but unclear what
   precipitated it. He is s/p right hip ORIF.
   5.       ARF: Cr down to baseline.
   6.       Abnl EKG: No evidence of acute coronary syndrome.
   7.       FEN: NPO
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2163-3-18**] 11:37 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes critical care time
   Patient is critically ill

2163-03-23 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2163-3-22**] 09:33 AM
   - extubated successfully, sating well on 2L NC
   - unable to place Doboff x 3 attempts
   - started Lopressor 10mg q6hr for HTN (unable to take POs)
   - ECHO - There is regional left ventricular systolic dysfunction with
   mild focal hypokinesis of the apex and the mid to apical septum,
   anterior, and lateral walls
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2163-3-20**] 08:17 PM
   Linezolid - [**2163-3-20**] 10:00 PM
   Meropenem - [**2163-3-21**] 02:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2163-3-22**] 08:00 AM
   Metoprolol - [**2163-3-23**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough
   Flowsheet Data as of  [**2163-3-23**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.4
   HR: 91 (84 - 121) bpm
   BP: 144/66(85) {113/57(71) - 176/104(120)} mmHg
   RR: 18 (16 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 4 (4 - 14)mmHg
   Total In:
                                                                  1,419 mL
                                                                     87 mL
   PO:
   TF:
   IVF:
                                                                    814 mL
                                                                     87 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,295 mL
                                                                    390 mL
   Urine:
                                                                  1,295 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    124 mL
                                                                   -303 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 300 (300 - 300) mL
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 35%
   SpO2: 100%
   ABG: 7.44/52/84.[**Numeric Identifier 1625**]/35/9
   Ve: 9.9 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), difficult to assess [**2-5**]
   coarse breathsounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : , No(t) Bronchial: , No(t) Wheezes : ,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended
   Extremities: Right: 1+, Left: Absent, No(t) Cyanosis
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   390 K/uL
   11.0 g/dL
   82 mg/dL
   1.0 mg/dL
   35 mEq/L
   3.4 mEq/L
   27 mg/dL
   108 mEq/L
   148 mEq/L
   32.2 %
   18.5 K/uL
        [image002.jpg]
                             [**2163-3-21**]  05:02 AM
                             [**2163-3-21**]  09:40 AM
                             [**2163-3-21**]  11:22 AM
                             [**2163-3-21**]  03:32 PM
                             [**2163-3-21**]  11:33 PM
                             [**2163-3-22**]  05:07 AM
                             [**2163-3-22**]  10:31 AM
                             [**2163-3-22**]  11:20 AM
                             [**2163-3-22**]  05:41 PM
                             [**2163-3-23**]  03:29 AM
   WBC
   21.4
   21.8
   18.5
   Hct
   28.4
   28.7
   26.3
   25.9
   30.9
   30.5
   31.3
   32.2
   Plt
   332
   362
   390
   Cr
   1.2
   1.2
   1.1
   1.0
   TCO2
   38
   36
   Glucose
   95
   88
   100
   82
   Other labs: PT / PTT / INR:14.5/28.5/1.3, CK / CKMB /
   Troponin-T:45/4/0.04, ALT / AST:21/23, Alk Phos / T Bili:60/0.9,
   Differential-Neuts:92.0 %, Band:5.0 %, Lymph:2.0 %, Mono:0.0 %, Eos:1.0
   %, Lactic Acid:1.1 mmol/L, Albumin:2.1 g/dL, LDH:221 IU/L, Ca++:7.7
   mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Imaging: The left atrium is elongated. Left ventricular wall
   thicknesses and cavity size are normal. There is regional left
   ventricular systolic dysfunction with mild focal hypokinesis of the
   apex and the mid to apical septum, anterior, and lateral walls. The
   remaining segments contract normally (LVEF = 45-50 %). Right
   ventricular chamber size and free wall motion are difficult to assess
   due to suboptimal technical quality, but are probably normal. The
   aortic root is mildly dilated at the sinus level. The aortic valve
   leaflets are mildly thickened. There is no aortic valve stenosis. No
   aortic regurgitation is seen. The mitral valve leaflets are mildly
   thickened. Trivial mitral regurgitation is seen. There is borderline
   pulmonary artery systolic hypertension. There is no pericardial
   effusion.
   IMPRESSION: Suboptimal image quality. Regional left ventricular
   dysfunction consistent with coronary artery disease or other focal
   myopathic process. Borderline pulmonary hypertension. Resting
   tachycardia.
   Compared with the prior study (images reviewed) of [**2163-3-7**], left
   ventricular function appears more vigorous. Resting heart rate is now
   faster.
   Assessment and Plan
   89 y/o male recent discharged after MICU stay for influenza
   pneumonitis, representing with respiratory failure, fever, altered
   mental status & hct drop, concern for onogoing superimposed bacterial
   pneumonia
   #Anemia: hct drop on adm from 31 to 22, etiology initially unclear  but
   presumed GI bleed. Hemolysis labs WNL.  Pt is s/p 9upRBCs, hct did not
   approp rise until after 3rd unit.  Hct finally went to 30, no e/o
   hemodynamic instability.  Guaiac negative from golytyl BM,  reported
   coffee grounds in NG lavage performed in ED, bile currently present
   when OG suctioned, EGD on [**3-21**] showed clean upper GI tract without
   evidence of bleeding. Colonosocpy not perfromed with guaiac negative
   schools and [**Month/Year (2) 1657**].  Nursing noted swelling of right knee and right
   lower extremity.  Plain films of right knee negative.  Seen by rheum no
   blood on tap, no crystals.  LENI of right lower extremity revealed
   hematoma.  Vascular consulted recommended CTA of RLE.  Patient
   premedicated with acetylcysteine and and bicarb.  Scan showed large
   hematomoa with no evidence of active extravation of contrast
   -stools guaiac negative
   -q6hr hcts.
   -[**Hospital1 **] IV PPI
   -f/u vascular rec
   # Respiratory failure: etiology complex, including likely failed
   treatment of PNA with vanc/zosyn, inability to clear secretions causing
   resperation pneumonitis vs. acute flare up of what appears to be
   underlying interstital lung disease.   Consider HAP given recent adm,
   also viral etiologies such as RSV & atypical CAP given diffuse
   reticular opacities seen on CXR. Given recent course of influenza,
   ongoing secondary PNA likely. PE also on the differnetial given
   persistent tachycardia despite adequate hydration.  CXR and prior CT
   seem consistent with IPF.  IPF work-up pending.  CXR this am does,
   however, look a little worse.
   -  All cultures negative and patient afebrile.  Elevated WBC may be
   secondary to aspiration pneumonitis.  d/c
d levo, meropenem, linezolid
   (considered failure on vanc.)
   -d/c'd tamiflu now that Influenza DFA neg
   -Viral cx including RSV pending
   -f/u blood/sputum/urine cx
   -In review of CXR and prior CT, less consistent w/ volume overload than
   underlying interstitial lung disease.  Course not c/w IPF, and thus
   steroids not indicated.  No evidence of pulmonary HTN on prior TTE.
   Will w/u by checking [**Doctor First Name 1205**], RF, anti-SCL70, ESR, ANC, and PFTs once
   extubated.
   -held on extubation yesterday per vasculr while work-up of hematoma
   underway
   - will check an ABG, SBT and plan to extubate this am
   # Fever: etiology most likely PNA but C-diff possible given recent ABx
   & WBC ct>20. PE less likely given clinical course.  Ruling out resp
   viral causes, GI bleed unlikely to cause fevers.  WBC down and patient
   has been afebrile.  CT Head showed acute bilat mastoiditis.
   - ceftriaxone 1mg qd for acute mastoiditis
   -d/c llnezolid, Levo, [**Last Name (un) **] as cultures negative and afebrile > 48hrs
   -f/u blood, urine, sputum cx
   -influenza DFA  and legionella negative
   -RSV, viral cx pending
   -send C. diff when possible, negative x1
   #Altered mental status: Hx of dementia. Likely Delirium in the setting
   of pneumonia, fever, hypoxia.  No clear signs of meningismus on exam,
   but difficult to assess MS [**First Name (Titles) 1646**] [**Last Name (Titles) 1657**].  t/b with family regarding
   baseline MS.
   [**Name14 (STitle) 1658**] broad spectrum ABx, f/u cx data
   -afebrile, no indication for LP at this time
   ..# ARF: Baseline 0.7. Consider pre renal in etiology, creatinine
   trended down to 1.2 this am, still elev BUN/creat ratio this am.  Urine
   Na 19, FENA 0.2 but fluid bolus did not resolve tachycardia & volume
   overloaded on CXR.  Patient premedicated with acetylcysteine and bicard
   for CTA with no bump in Cr this am.
   -foley catheter, strict I/0's
   # Cardiac: troponinin of 0.05 on adm in setting of fever etc, EKGs
   unchanged, CE have been flat
   -repeat EKGs prn
   -holding ASA in the setting of likely GI bleed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2163-3-18**] 11:37 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2163-3-18**] 11:37 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2163-03-23 11:32:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated without incident.
   Dobhoff could not be inserted.
   TTE - regional LV syst dysfunction, EF 45-55%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2163-3-20**] 08:17 PM
   Linezolid - [**2163-3-20**] 10:00 PM
   Meropenem - [**2163-3-21**] 02:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2163-3-23**] 01:00 AM
   Pantoprazole (Protonix) - [**2163-3-23**] 08:19 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-3-23**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.4
   HR: 94 (84 - 109) bpm
   BP: 131/81(93) {113/65(79) - 176/104(120)} mmHg
   RR: 21 (14 - 35) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 9 (4 - 14)mmHg
   Total In:
                                                                  1,419 mL
                                                                    172 mL
   PO:
   TF:
   IVF:
                                                                    814 mL
                                                                    172 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,295 mL
                                                                    880 mL
   Urine:
                                                                  1,295 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    124 mL
                                                                   -708 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 95%
   ABG: ///35/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilat)
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): self,
   Movement: Not assessed, Tone: Not assessed, Garbled speech
   Labs / Radiology
   11.0 g/dL
   390 K/uL
   82 mg/dL
   1.0 mg/dL
   35 mEq/L
    3.4 mEq/L
   27 mg/dL
   108 mEq/L
   148 mEq/L
   32.2 %
   18.5 K/uL
        [image002.jpg]
                             [**2163-3-21**]  05:02 AM
                             [**2163-3-21**]  09:40 AM
                             [**2163-3-21**]  11:22 AM
                             [**2163-3-21**]  03:32 PM
                             [**2163-3-21**]  11:33 PM
                             [**2163-3-22**]  05:07 AM
                             [**2163-3-22**]  10:31 AM
                             [**2163-3-22**]  11:20 AM
                             [**2163-3-22**]  05:41 PM
                             [**2163-3-23**]  03:29 AM
   WBC
   21.4
   21.8
   18.5
   Hct
   28.4
   28.7
   26.3
   25.9
   30.9
   30.5
   31.3
   32.2
   Plt
   332
   362
   390
   Cr
   1.2
   1.2
   1.1
   1.0
   TCO2
   38
   36
   Glucose
   95
   88
   100
   82
   Other labs: PT / PTT / INR:14.5/28.5/1.3, CK / CKMB /
   Troponin-T:45/4/0.04, ALT / AST:21/23, Alk Phos / T Bili:60/0.9,
   Differential-Neuts:92.0 %, Band:5.0 %, Lymph:2.0 %, Mono:0.0 %, Eos:1.0
   %, Lactic Acid:1.1 mmol/L, Albumin:2.1 g/dL, LDH:221 IU/L, Ca++:7.7
   mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   A/P:89 yr old male recent hospital admission for influenza pneumonitis,
   concern for superimposed bacterial pneumonia presenting with
   respiratory failure, fever, altered mental status, anemia and ARF.
   Now with hemorrhage into right thigh without clear cause. Extubated
   yesterday.
    1.     Respiratory failure: improved, suspect aspiration vs. less
   likely nosocomial PNA. Admitted with fever, leukocytosis. Antibiotics
   d/c'd except for CFTX.
   CT chest shows upper lobe predominant fibrotic process c/w possible
   ILD. Will need f/u of ILD w/u: [**Doctor First Name 1205**], ANCA, RF neg. Anti-Scl and RNP
   pending.
   2.      Fever: remains afebrile this AM, off all Abx. Cdiff negative x
   1. New mastoiditis on CT head. Will treat with CFTX.
   3.       Leukocytosis:  improving. [**Month (only) 60**] be due to acute blood loss
   and/or mastoiditis.F/u cultures.
   4.      Acute blood loss Anemia due to bleed into right thigh: Hct
   stable, s/p 9 units PRBCs. Source of bleeding is right hip but unclear
   what precipitated it. He is s/p right hip ORIF.
   5.       ARF: Cr down to baseline.
   6.       Abnl EKG: No evidence of acute coronary syndrome.
   7.       FEN: NPO
   ICU Care
   Nutrition: dobhoff to be inserted by IR
   Glycemic Control:
   Lines:
   Presep Catheter - [**2163-3-18**] 11:37 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   Communication: ICU consent signed Comments:
   Code status: Full code, stable to transfer to floor
   Total time spent: 35 minutes